* C:\Users\Nico Bustelo\Desktop\Electronics\0-GitHub\TPs-G1_E4\TP1\Simulaciones\TP1.asc
Vd N002 0 9
V1 N007 0 PULSE(2 0 0 0.1u 0.1u 10.1u 18.1818u)
R6 N008 N007 50
R3 N009 N008 100
R5 N001 N004 1k
R1 Gate N005 22
L1 N002 Drain 220µ Ipk=1 Rser=0.73 Rpar=138200 Cpar=3.475p
Ro Vo 0 200
Q1 0 N004 N005 0 2N2907
Q2 N001 N004 N005 0 2N2222
Q3 N004 N009 0 0 BC547B
C1 Vo 0 4.7µ
C2 N002 0 1µ
Vgg N001 0 15
D1 Drain Vo MUR160
C3 N001 0 1µ
XU1 Drain Gate 0 IRF540
Vd1 N003 0 9
V2 N006 0 PULSE(0 15 0 0.1u 0.1u 10u 18.1818u)
L2 N003 DrainIdeal 220µ Ipk=1 Rser=0 Rpar=138200 Cpar=3.475p
Ro1 VoIdeal 0 68
C4 VoIdeal 0 4.7µ
C5 N003 0 1µ
D2 DrainIdeal VoIdeal DidI
XU2 DrainIdeal GateIdeal 0 IRF540
R2 GateIdeal N006 47
.model D D
.lib C:\Users\Nico Bustelo\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Nico Bustelo\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 4.02m 3.999m 100u
* Rserie = 0.73
* Boost Converter Real
.model DidI D(Ron=0.0001 Roff=100G Vfwd=0)
* Diodo ideal Von = 0V
* Rserie = 0
* Boost Converter Ideal
.lib ..\sym\ZZZ\MOS\IRF\LIB\irf540.spi
.backanno
.end
